US04859662
3-[(2-Fluorophenyl)amino]-2-cyclohexen-1-one
2-Fluoroaniline (10 g) and cyclohexane-1,3-dione (10 g) were heated together under nitrogen at 120° for 1 h. The cooled mixture was triturated with ether and filtered to give the title compound (14.8 g), m.p. 116°-118°.

reactant | 2-Fluoroaniline | 10 g | FC1=C(N)C=CC=C1 | C6H6FN
reactant | cyclohexane-1,3-dione | 10 g | C1(CC(CCC1)=O)=O | C6H8O2
product | 3-[(2-Fluorophenyl)amino]-2-cyclohexen-1-one | 14.8 g | FC1=C(C=CC=C1)NC1=CC(CCC1)=O | C12H12FNO
